US04789678
4-Amino-α-ethyl-2-methyl-3-quinolinemethanol
A mixture prepared from 1-(4-amino-2-methyl-3-quinolinyl)-propanone (8 g), sodium borohydride (3 g), 75 ml of isopropanol and 25 ml of methanol was stirred twenty hours at ambient temperature. The reaction mixture was concentrated and stirred with water, and the product which separated was collected and dried to 8 g of solid, mp 220°-230°. This material was recrystallized from absolute ethanol to give 4.6 g of crystals, mp 240°-241°.

reactant | 1-(4-amino-2-methyl-3-quinolinyl)-propanone | 8 g | NC1=C(C(=NC2=CC=CC=C12)C)CC(C)=O | C13H14N2O
reactant | sodium borohydride | 3 g | [BH4-].[Na+]
reactant | isopropanol | 75 ml | C(C)(C)O | C3H8O
solvent | methanol | 25 ml | CO | CH4O
product | 4-Amino-α-ethyl-2-methyl-3-quinolinemethanol | 4.6 g | NC1=C(C(=NC2=CC=CC=C12)C)C(O)CC | C13H16N2O
